US04656126
To 460 ml of methanol and 150 ml of water were added 120 g (0.46 mole) of 2-benzyloxy-1-naphthaldehyde, 75 g (0.92 mole) of sodium acetate and 48 g (0.69 mole) of hydroxylamine hydrochloride, and the mixture was refluxed by heating for 2 hours. After the reaction, the reaction mixture was added to 1.5 liters of water. The precipitated crystals were collected by filtration to obtain 125 g (0.45 mole) of 2-benzyloxy-1-naphthaldoxime.

reactant | methanol | 460 ml | CO | CH4O
reactant | 2-benzyloxy-1-naphthaldehyde | 0.46 mole, 120 g | C(C1=CC=CC=C1)OC1=C(C2=CC=CC=C2C=C1)C=O | C18H14O2
reactant | sodium acetate | 0.92 mole, 75 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.69 mole, 48 g | Cl.NO
solvent | water | 1.5 liters | O | H2O
solvent | water | 150 ml | O | H2O
product | 2-benzyloxy-1-naphthaldoxime | 0.45 mole, 125 g | C(C1=CC=CC=C1)OC1=C(C2=CC=CC=C2C=C1)C=NO | C18H15NO2
